US06469176B1
a) Preparation of 2,3-Dimethylthioanisole
355 g (3.44 mol) of tert-butyl nitrite and 250 g of copper powder (3.9 mol) are initially charged in 1250 ml of dimethyl disulfide, and a solution of 250 g (2.07 mol) of 2,3-dimethylaniline in 1000 ml of dimethyl disulfide is added dropwise at 50-52° C. The mixture is subsequently stirred at 75-80° C. for 1.5 hours. For work-up, the mixture is cooled, filtered off with suction through kieselguhr, and the filtrate is washed with saturated aqueous NaHCO3 solution. For the purification of the product, the organic phase is separated by distillation. Initially, excess dimethyl disulfide is removed at atmospheric pressure. 1446 g of dimethyl disulfide (purity>97% according to GC) are recovered. The residue is then subjected to fractional distillation under reduced pressure (0.1 mbar).

reactant | tert-butyl nitrite | 3.44 mol, 355 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,3-dimethylaniline | 2.07 mol, 250 g | CC1=C(N)C=CC=C1C | C8H11N
reactant | dimethyl disulfide | 1250 ml | CSSC | C2H6S2
reactant | dimethyl disulfide | 1000 ml | CSSC | C2H6S2
catalyst | copper | 3.9 mol, 250 g | [Cu] | Cu
product | 2,3-Dimethylthioanisole | CC1=C(C=CC=C1C)SC | C9H12S
